US06340680B1
N-(4-Chlorobenzyl)-9-(3-hydroxy-1-propynyl)-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide (B-7 of Chart B, R=H)
To a mixture of 539 mg of N-(4-chlorobenzyl)-9-iodo-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide of Preparation 10, 78 mg of copper (I) odide, and 30 mg of bis(triphenylphosphine)palladium dichloride in 11 mL of diethylamine, stirred vigorously under argon, is added 82 μL of propargyl alcohol. The mixture is stirred for 18 hours, then diluted with a little methanol and added to 120 mL of stirred water. The precipitated solid is filtered, washed well with water, and dried in vacuo. The solid is then dissolved in chloroform-methanol, and the solution is filtered to remove copper salts and then absorbed onto silica gel. Flash chromatography eluting with 2-6% methanol in dichloromethane provides 217 mg of the title compound.

reactant | N-(4-chlorobenzyl)-9-iodo-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide | 539 mg | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)I)OCC3)C=C1 | C19H14ClIN2O3
reactant | propargyl alcohol | 82 μL | C(C#C)O | C3H4O
reactant | water | 120 mL | O | H2O
solvent | diethylamine | 11 mL | C(C)NCC | C4H11N
solvent | methanol | CO | CH4O
catalyst | copper (I) | 78 mg | [Cu+]
catalyst | bis(triphenylphosphine)palladium dichloride | 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-9-(3-hydroxy-1-propynyl)-7-oxo-2,3-dihydro-7H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxamide | 217 mg | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)C#CCO)OCC3)C=C1 | C22H17ClN2O4
